US08420823B2
N-isoxazol-3-yl-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 73 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 3-aminoisoxazole as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | N-isoxazol-3-yl-3-(piperidin-1-ylsulfonyl)benzamide | O1N=C(C=C1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C15H17N3O4S
